US09403831B2
(S)-1-((1-(5-bromopyrimidin-2-yl)piperidin-3-yl)methyl)-6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazine (50 mg, 0.11 mmol), 1-(4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzyl)piperazin-1-yl) ethanone (45 mg, 0.13 mmol), Pd(dppf)2Cl2 (4.5 mg, 0.0054 mmol), and K2CO3 (45 mg, 0.33 mmol) were dissolved in dioxane (4 ml)+H2O (1 ml), and then degassed with N2(gas), followed by stirring at 80° C. for 2 hours. After the completion of the reaction, the reaction mixture was extracted with H2O, EA, and brine, followed by drying (Na2SO4), filtration, and concentration under reduced pressure, and the residue was purified by column chromatography (MeOH:MC=1:10), to give (S)-1-(4-(4-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)benzyl)piperazin-1-yl)ethanone (48 mg, 74%).

reactant | (S)-1-((1-(5-bromopyrimidin-2-yl)piperidin-3-yl)methyl)-6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazine | 0.11 mmol, 50 mg | BrC=1C=NC(=NC1)N1C[C@H](CCC1)CN1N=NC=2C1=NC(=CN2)C=2C=NN(C2)C | C18H19BrN10
reactant | 1-(4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzyl)piperazin-1-yl) ethanone | 0.13 mmol, 45 mg | CC1(OB(OC1(C)C)C1=CC=C(CN2CCN(CC2)C(C)=O)C=C1)C | C19H29BN2O3
reactant | K2CO3 | 0.33 mmol, 45 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 1 ml | O | H2O
catalyst | Pd(dppf)2Cl2 | 0.0054 mmol, 4.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-1-(4-(4-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)benzyl)piperazin-1-yl)ethanone | 48 mg, 74% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCC2)C2=NC=C(C=N2)C2=CC=C(CN1CCN(CC1)C(C)=O)C=C2 | C31H36N12O
